US04267193
Combine the N-ethoxycarbonylmethyl-(2,6-diisopropyl)aniline (26.3 g, 0.100 mol) with hexafluoroacetone sesquihydrate (38.6 g, 0.20 mol) and 1.0 g toluenesulfonic acid. Reflux 20 hours, allow to cool, and pour onto water. Extract with ether, dry, and concentrate. Warm with hexane and allow to cool to obtain the product, N-ethoxycarbonylmethyl-2,6-diisopropyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline, as a solid, m.p. 72°-73° C.

reactant | N-ethoxycarbonylmethyl-(2,6-diisopropyl)aniline | 0.100 mol, 26.3 g | C(C)OC(=O)CNC1=C(C=CC=C1C(C)C)C(C)C | C16H25NO2
reactant | hexafluoroacetone sesquihydrate | 0.20 mol, 38.6 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | toluenesulfonic acid | 1.0 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | N-ethoxycarbonylmethyl-2,6-diisopropyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline | C(C)OC(=O)CNC1=C(C=C(C=C1C(C)C)C(C(F)(F)F)(C(F)(F)F)O)C(C)C | C19H25F6NO3
